US04985430
In 4 ml of pyridine was added 2 g of 9-amino-1,2,3,4-tetrahydroacridine. To the mixture was added 3.3 ml of n-butyric acid anhydride and the mixture was refluxed for 8 hours. Then, the solvent was removed under reduced pressure, and 10 ml of methanol was added to the obtained residue. Conc. aqueous ammonia was added to the mixture and the mixture was refluxed for one hour. After removal of the solvent under reduced pressure, water was added to the residue and the mixture was extracted with chloroform. The chloroform layer was dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The obtained residue was purified through silica gel column chromatography and recrystallized from chloroform/ether to give 1.57 g of N-(1,2,3,4-tetrahydroacridin-9-yl)butanamide. Melting point: 202° to 204° C.

reactant | 9-amino-1,2,3,4-tetrahydroacridine | 2 g | NC=1C2=CC=CC=C2N=C2CCCCC12 | C13H14N2
reactant | n-butyric acid anhydride | 3.3 ml | C(CCC)(=O)OC(CCC)=O | C8H14O3
solvent | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
product | N-(1,2,3,4-tetrahydroacridin-9-yl)butanamide | 1.57 g | C1CCCC2=NC3=CC=CC=C3C(=C12)NC(CCC)=O | C17H20N2O
